US07776875B2
To dry tetrahydrofuran (60 mL) was added 1M THF solution of LiHMDS (51 mmol, 51 mL) under Ar at room temperature, followed by the addition of 2-Methoxy-5-methyl-benzaldehyde (7.65 g, 51 mmol). After the mixture was stirred at room temperature for 1 h, trimethylsilyl chloride (6.3 mL, 51 mmol) was added dropwise. Then the temperature of the mixture was lowered to 0° C. on a cooling ice bath. To this mixture was added triethylamine (9.3 mL, 66 mmol) in one portion, followed by the dropwise addition of a solution of acetyl chloride (4.71 mL, 66 mmol) in diethyl ether (300 mL). The cooling bath was removed, and the mixture was stirred at room temperature overnight. The mixture was quickly filtered on celite under nitrogen, and filtrate was concentrated under reduced pressure to give crude 1-(5-methyl-2-methoxy-phenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification

reactant | LiHMDS | 51 mmol, 51 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 2-Methoxy-5-methyl-benzaldehyde | 51 mmol, 7.65 g | COC1=C(C=O)C=C(C=C1)C | C9H10O2
reactant | trimethylsilyl chloride | 51 mmol, 6.3 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 66 mmol, 9.3 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 66 mmol, 4.71 mL | C(C)(=O)Cl | C2H3ClO
solvent | diethyl ether | 300 mL | C(C)OCC | C4H10O
solvent | THF | 1M | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | 1-(5-methyl-2-methoxy-phenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene | CC=1C=CC(=C(C1)C=NC(=C)O[Si](C)(C)C)OC | C14H21NO2Si
